US09079894B2
A mixture of ethyl 4-oxo piperidine-1-carboxylate (3.14 grams, 18.3 mmol, obtained in the above step) in acetic acid (1.05 mL, 18.3 mmol) was added to a stirred solution of ethyl isonipecotate (2.87 mL, 18.3 mmol) in dichloromethane (10 mL) cooled at 0° C. Solid sodium triacetoxy borohydride (11.6 grams, 54.9 mmol) was added portion wise over a period of 15 minutes. The reaction mixture was gradually warmed to room temperature and stirred for 16 hours. The reaction mixture was cooled to 0° C. and basified with saturated sodium bicarbonate solution (pH 7.5). The two layers were separated, the organic layer was washed with brine, dried over anhydrous sodium sulfate and the volatiles were removed under reduced pressure. The crude product was purified by silica gel column chromatography to obtain [1,4′]Bipiperidinyl-4,1′-dicarboxylic acid diethyl ester (5.51 grams).

reactant | acetic acid | 18.3 mmol, 1.05 mL | C(C)(=O)O | C2H4O2
reactant | ethyl isonipecotate | 18.3 mmol, 2.87 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | sodium triacetoxy borohydride | 54.9 mmol, 11.6 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | pH 7.5 | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [1,4′]Bipiperidinyl-4,1′-dicarboxylic acid diethyl ester | 5.51 grams, Yield: 96.3% | C(C)OC(=O)C1CCN(CC1)C1CCN(CC1)C(=O)OCC | C16H28N2O4
